US05932595
Lithium hydroxide monohydrate (6.95 g, 165.6 mmol) was added to solution of N-(tert-butoxycarbonyl)-4-(hydroxymethyl)piperidine-4-carboxylic acid ethyl ester (9.52 g, 33.1 mmol) in 2:1 methanol/water (100 mL). The mixture was heated to reflux for 30 minutes, the methanol removed in vacuo by concentration using a bath temperature no higher than 45° C. The aqueous layer was cooled to 0° C., acidified to pH 3.0 using 6M aqueous hydrochloric acid, and extracted with ethyl acetate (4×75 mL). The combined organic layers were dried over magnesium sultate, and concentrated in vacuo, and recrystallized from dichloromethane/hexanes to afford N-(tert-butoxycarbonyl)-4-(hydroxymethyl)piperidine-4-carboxylic acid (8.59 g, 100%).

reactant | Lithium hydroxide monohydrate | 165.6 mmol, 6.95 g | O.[OH-].[Li+]
reactant | N-(tert-butoxycarbonyl)-4-(hydroxymethyl)piperidine-4-carboxylic acid ethyl ester | 33.1 mmol, 9.52 g | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C14H25NO5
solvent | methanol water | 100 mL | CO.O
product | N-(tert-butoxycarbonyl)-4-(hydroxymethyl)piperidine-4-carboxylic acid | 8.59 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)CO | C12H21NO5
